US07192976B2
3-(2-trifluoromethylphenyl)acrylaldehyde.
To a solution of 2-trifluoromethylbenzaldehyde (260 mg) in 5 mL THF was added 200 mg of ZnBr2. With stirring, 400 mg of α,α-bis(trimethylsilyl)-t-butylacetaldimine (7) was added, and stirring was continued overnight. The solution was cooled to 10° C., then hydrolyzed by the addition of a solution of ZnCl2 (200 mg) in diethyl ether/water (3 mL each), followed by stirring at room temperature for 1 h. The solids were removed by filtration through Celite and the filtrate extracted with diethyl ether (2×). The combined ether extracts were washed with water and brine, dried over magnesium sulfate, filtered and concentrated to provide the crude title compound as an oil. The product was purified via silica gel column chromatography to afford a white powder (130 mg): 1H NMR (CDCl3) δ 6.70 (dd, 1 H, J=9.6, 4.5 Hz), 7.55 (t, 1 H, J=4.5 Hz), 7.63 (t, 1 H, J=4.5 Hz), 7.76 (d, 2 H, J=4.8 Hz), 7.88 (br d, 1 H, J=9.6 Hz), 9.77 (d, 1 H, J=4.8 Hz).

reactant | 2-trifluoromethylbenzaldehyde | 260 mg | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | diethyl ether water | 3 mL | C(C)OCC.O
catalyst | ZnBr2 | 200 mg | [Zn+2].[Br-].[Br-]
catalyst | ZnCl2 | 200 mg | [Cl-].[Cl-].[Zn+2]
product | 3-(2-trifluoromethylphenyl)acrylaldehyde | 130 mg | FC(C1=C(C=CC=C1)C=CC=O)(F)F | C10H7F3O
